US05260309
N-t-Butyldiphenylsilyl-benzenemethanamine
To a solution of benzenemethanamine (21.8 mL, 0.20 mol) and triethylamine (41.2 mL, 0.30 mol) in acetonitrile (400 mL) was added dropwise t-butylchlorodiphenylsilane (52 mL, 0.20 mol). The mixture was stirred at room temperature for 3 hours and then filtered to remove the insoluble white precipitate (triethylamine hydrochloride). After removal of the solvent in vacuo, the crude product was taken up in a 4:1 mixture of ether/hexane and washed sequentially with H2O, saturated NaHCO3 solution and H2O. The solution was dried (Na2SO4 /K2CO3) and concentrated to leave an oil which was distilled under high vacuum. The major fraction consisting of the pure product (45.9 g, 66%) distilled from 140° to 160° C. at about 0.1-0.2 mm Hg and crystallized on standing at room temperature, m.p. 34°-36° C.

reactant | benzenemethanamine | 0.20 mol, 21.8 mL | C1(=CC=CC=C1)CN | C7H9N
reactant | triethylamine | 0.30 mol, 41.2 mL | C(C)N(CC)CC | C6H15N
reactant | t-butylchlorodiphenylsilane | 0.20 mol, 52 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | acetonitrile | 400 mL | C(C)#N | C2H3N
product | N-t-Butyldiphenylsilyl-benzenemethanamine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)NCC1=CC=CC=C1 | C23H27NSi
